US07897597B2
The general method described in Part B of Example 3 was followed using 8-benzyloxy-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline (2.1 g, 6.3 mmol) in lieu of 7-benzyloxy-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline. After the work-up, 2.16 g of 8-benzyloxy-1-(2-methylpropyl)-5-oxido-1H-imidazo[4,5-c]quinoline were obtained as a white solid and used without purification.

reactant | 8-benzyloxy-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline | 6.3 mmol, 2.1 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=NC2C=C1)N=CN3CC(C)C | C21H21N3O
reactant | 7-benzyloxy-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)C)C | C22H23N3O
product | 8-benzyloxy-1-(2-methylpropyl)-5-oxido-1H-imidazo[4,5-c]quinoline | 2.16 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=[N+](C2C=C1)[O-])N=CN3CC(C)C | C21H21N3O2
